US04892870
To a stirred mixture of 6 g (25 mmol) of N-isopropylhydroxylamine oxalate and 1N sodium hydroxide (50 ml) in water (100 ml) cooled to 0° C. there was added 2,3-dibromopropionyl chloride (12.5 g, 50 mmol), followed by the addition of 50 ml of 1N sodium hydroxide. Ten minutes later, 150 ml of methylene chloride and 60 ml of 1N sodium hydroxide were added. The mixture was stirred continuously for one hours following which the organic phase was separated, dried over anhydrous magnesium sulfate and concentrated. The concentrate was chromatographed on silica gel with 40% ethyl acetatehexane to afford 3.3 g of 4-bromo-2-isopropyl-3-isoxazolidinone.

reactant | N-isopropylhydroxylamine oxalate | 25 mmol, 6 g | C(C(=O)O)(=O)O.C(C)(C)NO
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
reactant | 2,3-dibromopropionyl chloride | 50 mmol, 12.5 g | BrC(C(=O)Cl)CBr | C3H3Br2ClO
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-bromo-2-isopropyl-3-isoxazolidinone | 3.3 g | BrC1C(N(OC1)C(C)C)=O | C6H10BrNO2
